US06809097B1
A solution of Meldrum's acid (32 g, 22.2 mmol)in methyl orthoformate (200 ml) was stirred at 100° C. 3-Hydroxy-4-methoxyaniline (28 g, 20 mmol) was added and the solution was heated at reflux for 15 minutes. After cooling, the mixture was stirred overnight at ambient temperature. The precipitate was collected by filtration, washed with methyl orthoformate followed by ether and dried under vacuum to give 5-((3-hydroxy-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (47.5 g, 82%).

reactant | Meldrum's acid | 22.2 mmol, 32 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | 3-Hydroxy-4-methoxyaniline | 20 mmol, 28 g | OC=1C=C(N)C=CC1OC | C7H9NO2
reactant | methyl orthoformate | 200 ml | C(OC)([O-])[O-]
product | 5-((3-hydroxy-4-methoxyanilino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 47.5 g, 82% | OC=1C=C(NC=C2C(OC(OC2=O)(C)C)=O)C=CC1OC | C14H15NO6
